US03970704
Following the process of Example 13, 10-ethoxy-6,10-dimethylundec-3-en-2-one is converted into methyl 11-ethoxy-3,7,11-trimethyldodeca-2,4-dienoate. Reaction of 10-ethoxy-6,10-dimethylundec-3-en-2-one with the carbanion of diethyl carboethoxymethylphosphonate yields ethyl 11-ethoxy-3,7,11-trimethyldodeca-2,4-dienoate.

reactant | 10-ethoxy-6,10-dimethylundec-3-en-2-one | C(C)OC(CCCC(CC=CC(C)=O)C)(C)C | C15H28O2
reactant | methyl 11-ethoxy-3,7,11-trimethyldodeca-2,4-dienoate | C(C)OC(CCCC(CC=CC(=CC(=O)OC)C)C)(C)C | C18H32O3
reactant | diethyl carboethoxymethylphosphonate | C(=O)(OCC)CP(OCC)(OCC)=O | C8H17O5P
product | ethyl 11-ethoxy-3,7,11-trimethyldodeca-2,4-dienoate | C(C)OC(CCCC(CC=CC(=CC(=O)OCC)C)C)(C)C | C19H34O3
